US07601714B2
To a stirred solution of 1.7M t-butyl lithium in THF (35.0 mL, 59.6 mmol, 2.60 equiv.) with THF (150 mL) at −78 degrees was added dropwise 2-bromomesitylene (4.56 mL, 29.8 mmol, 1.30 equiv.). After stirring for 1 h, 2-methoxy-pyridine (2.5 g, 22.9 mmol) was added dropwise. This solution was warmed to −23 degrees and stirred for 3 h and then cooled to −78 degrees again. DMF (2.66 mL, 34.4 mmol, 1.5 equiv.) was added, the solution was stirred at −78 degrees for 1 h. The reaction was quenched at this temperature with brine (150 mL) and extracted with ether. The combined ether was dried over K2CO3 and evaporated on vacuo. The residue was chromatographed with 50%-80% EtOAc/Hexanes to give 2-methoxy-pyridine-3-carbaldehyde (2.34 g, 17.1 mmol, 74.5%) as a yellow solid.

reactant | t-butyl lithium | 1.7M | C(C)(C)(C)[Li]
reactant | 2-bromomesitylene | 29.8 mmol, 4.56 mL, 1.30 equiv. | BrC1=C(C=C(C=C1C)C)C | C9H11Br
reactant | 2-methoxy-pyridine | 22.9 mmol, 2.5 g | COC1=NC=CC=C1 | C6H7NO
reactant | DMF | 34.4 mmol, 2.66 mL, 1.5 equiv. | CN(C)C=O | C3H7NO
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 59.6 mmol, 35.0 mL, 2.60 equiv. | C1CCOC1 | C4H8O
product | 2-methoxy-pyridine-3-carbaldehyde | 17.1 mmol, 2.34 g, 74.5% | COC1=NC=CC=C1C=O | C7H7NO2
